US07569550B2
c) Ethyl 9-bromo-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate
Ethyl 1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate (290 mg, 1.13 mmol) was dissolved in acetic acid (3 mL) and bromine (197 mg, 1.23 mmol) was added dropwise. The reaction was followed by LC/MS, additional bromine (2×197 mg) was added. After 24 hours water was added and the precipitate was filtered off, washed with diethyl ether then dried in a dessicator in the presence of phosphorus pentoxide to provide an orange solid which was purified by chromatography on silica gel eluting with 0-1.5% (9:1 MeOH/20 M NH3) in dichloromethane to yield the title compound as a white solid. ESMS m/z 336/338 (MH+). 1H NMR (CDCl3) δ 8.34(d, 1H), 8.31 (s, 1H), 7.48 (d, 1H), 4.37 (q, 2H), 4.17 (t, 2H), 3.03 (t, 2H), 2.23 (tt, 2H), 1.40 (t, 3H).

reactant | Ethyl 1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | 1.13 mmol, 290 mg | O=C1C(=CN2C3=C(C=CC=C13)CCC2)C(=O)OCC | C15H15NO3
reactant | bromine | 1.23 mmol, 197 mg | BrBr | Br2
reactant | bromine | 197 mg | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | Ethyl 9-bromo-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | BrC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C15H14BrNO3
